US09062034B2
(a) 2-(5-chloro-thiophen-2-yl)-4.4-dimethyl-4H-oxazol-5-one
1.0 g (4.0 mmol) 2-[(5-chloro-thiophen-2-yl)-carbonylamino]-2-methyl-propionic acid in 30 ml acetic anhydride are stirred for 1 h at 85° C. Then the reaction mixture is evaporated to dryness.

reactant | 2-[(5-chloro-thiophen-2-yl)-carbonylamino]-2-methyl-propionic acid | 4.0 mmol, 1.0 g | ClC1=CC=C(S1)C(=O)NC(C(=O)O)(C)C | C9H10ClNO3S
solvent | acetic anhydride | 30 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(5-chloro-thiophen-2-yl)-4.4-dimethyl-4H-oxazol-5-one | ClC1=CC=C(S1)C=1OC(C(N1)(C)C)=O | C9H8ClNO2S
